US07790884B2
Triethylamine (175 μl) and acetyl chloride (32 μl) were added under ice-cooling to a dichloromethane (5 mL) solution of N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide dihydrochloride (250 mg), followed by stirring under ice-cooling for 2 hours and under room temperature for 20 hours. A saturated sodium bicarbonate aqueous solution was added thereto, followed by extraction with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. Then, the solvent was evaporated. By purifying the resulting residue by a silica gel column chromatography (chloroform-MeOH), 1-acetyl-N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide was obtained. This compound was dissolved in MeOH (3 mL), 4 M HCl/ethyl acetate solution (203 μl) was added thereto, and the solvent was evaporated. By crystallizing the resulting crude crystals from isopropanol-diisopropyl ether, 1-acetyl-N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide hydrochloride (167 mg) was obtained as pale yellow crystals.

reactant | Triethylamine | 175 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 32 μl | C(C)(=O)Cl | C2H3ClO
reactant | N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide dihydrochloride | 250 mg | Cl.Cl.ClC1=CC(=C(C=C1)NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N(C([C@H]1NCCC1)=O)C)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-acetyl-N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide | C(C)(=O)N1[C@H](C(=O)N(C)C2CCN(CC2)C2=NC3=CC(=C(C=C3C(=N2)NC2=C(C=C(C=C2)Cl)F)OC)OC)CCC1 | C29H34ClFN6O4
